US07754737B2
Crude 2-(2-(trimethylsilyl)ethoxycarbonyl)amino-3-(3,3-difluorocyclobutyl)propanoic acid (273 mg, 0.844 mmol) was dissolved in THF (5 mL) and the solution was cooled to −10° C. N-methylmorpholine (95 mg, 0.929 mmol, 1.1 equiv) was added and the mixture stirred for 15 min. After this time isobutyl chloroformate (127 mg, 0.929 mmol, 1.1 equiv) was added. After stirring for 30 min LC-MS showed remaining starting material. The procedure was repeated with an additional 0.55 equiv of the amine and chloroformate. This consumed all of the starting material. The reaction mixture was quickly filtered through a pad of celite into a solution of NaBH4 (128 mmol, 3.4 mmol, 4.0 equiv) in water (4 mL). The filter cake was washed with an additional dry THF (5 mL). LC-MS analysis showed formation of the desired alcohol. The solvent was removed and the residue partitioned between EtOAc and brine. The layers were separated and the aqueous layer extracted with additional EtOAc. The combined organic layers were dried over Na2SO4. The solvent was removed to yield 2-(trimethylsilyl)ethyl 3-(3,3-difluorocyclobutyl)-1-hydroxypropan-2-ylcarbamate (240 mg, 90%) as an orange oil. 1H and 19F NMR were consistent with the desired product.

reactant | 2-(2-(trimethylsilyl)ethoxycarbonyl)amino-3-(3,3-difluorocyclobutyl)propanoic acid | 0.844 mmol, 273 mg | C[Si](CCOC(=O)NC(C(=O)O)CC1CC(C1)(F)F)(C)C | C13H23F2NO4Si
reactant | N-methylmorpholine | 0.929 mmol, 95 mg, 1.1 equiv | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.929 mmol, 127 mg, 1.1 equiv | ClC(=O)OCC(C)C | C5H9ClO2
reactant | chloroformate | ClC(=O)[O-]
reactant | NaBH4 | 128 mmol, 4.0 equiv | [BH4-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 4 mL | O | H2O
product | 2-(trimethylsilyl)ethyl 3-(3,3-difluorocyclobutyl)-1-hydroxypropan-2-ylcarbamate | 240 mg, 90% | FC1(CC(C1)CC(CO)NC(OCC[Si](C)(C)C)=O)F | C13H25F2NO3Si
